US06329402B1
5,8-Dimethyl-5,1,7,8-tetrahydroquinoline-2-carbaldehyde
Phosphorus oxychloride (18.6 g, 0.12 mol) was added dropwise to 29.2 g (0.4 mol) of N,N-dimethylformamide under ice cooling. After stirring at room temperature for 30 minutes, the reaction mixture was cooled over ice bath, followed by the dropwise addition of 17.0 g (0.1 mol) of 5,8-dimethyl-5,6,7,8-tetrahydroquinoline. After stirring at room temperature for one hour, the reaction mixture was poured into ice water and neutralized with an aqueous solution of sodium bicarbonate, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue so obtained was subjected to chromatography on a silica gel column (developing solvent: 10% ethyl acetate/n-hexane), whereby 11.4 g of the title compound were obtained in the form of a reddish brown oil.

reactant | Phosphorus oxychloride | 0.12 mol, 18.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 0.4 mol, 29.2 g | CN(C=O)C | C3H7NO
reactant | 5,8-dimethyl-5,6,7,8-tetrahydroquinoline | 0.1 mol, 17.0 g | CC1C=2C=CC=NC2C(CC1)C | C11H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | 5,8-Dimethyl-5,1,7,8-tetrahydroquinoline-2-carbaldehyde | 11.4 g | CC1C=2C=CC(NC2C(CC1)C)C=O | C12H17NO
